US04650799
1,2-Bis(4-pivaloyloxymethyl-3,5-dioxopiperazin-1-yl)ethane
To a mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (0.94 g, 3.0 m mol) and pyridine (25 ml), pivaloyl chloride (0.78 g, 6.5 m mol) dissolved in pyridine (5 ml) was added gradually at 0° C., and then the mixture was stirred for 18 hours at room temperature. The solvent was removed from the reaction mixture under reduced pressure, and the residue was extracted with ethyl acetate (200 ml). The extract solution was washed with a saturated sodium bicarbonate aqueous solution and successively with water and was dried over magnesium sulfate. The residue obtained by removing the solvent from the extract under reduced pressure was purified by silica gel column chromatography (ethyl acetate, Rf value=0.8) to give the titled compound (0.75 g; yield 52%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.94 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | pivaloyl chloride | 0.78 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-Bis(4-pivaloyloxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.75 g, yield 52% | C(C(C)(C)C)(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(C(C)(C)C)=O)=O)=O | C22H34N4O8
